US05223498
A solution of 4-(2-aminophenyl)morpholine (5.3 g) in dichloromethane (25 ml) was treated with methyl isothiocyanate (3.2 g) and the mixture stirred at room temperature for 36 hours to yield 1-(2-morpholino phenyl)-3-methylthiourea (m.p. 115°-116° C.) which was recrystallised from a 4:1 mixture of ethyl acetate and hexane.

reactant | 4-(2-aminophenyl)morpholine | 5.3 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | methyl isothiocyanate | 3.2 g | CN=C=S | C2H3NS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-(2-morpholino phenyl)-3-methylthiourea | O1CCN(CC1)C1=C(C=CC=C1)NC(=S)NC | C12H17N3OS
